US08492372B2
N-{[5-FLUORO-7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHYL}-N-PROPYLPROPAN-1-AMINE
Preparation according to Example 34 using 2-(bromomethyl)-5-fluoro-7-(methylsulfonyl)-4H-1,3-benzodioxine (7 mg, 0.021 mmol), N-propylpropan-1-amine (0.5 ml) and EtOH (3 ml). MS m/z (rel. intensity, 70 eV) 345 (M+, 0.3), 115 (9), 114 (bp), 95 (5), 86 (14), 72 (6).

reactant | 2-(bromomethyl)-5-fluoro-7-(methylsulfonyl)-4H-1,3-benzodioxine | 0.021 mmol, 7 mg | BrCC1OCC2=C(O1)C=C(C=C2F)S(=O)(=O)C | C10H10BrFO4S
reactant | N-propylpropan-1-amine | 0.5 ml | C(CC)NCCC | C6H15N
solvent | EtOH | 3 ml | CCO | C2H6O
product | N-{[5-FLUORO-7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHYL}-N-PROPYLPROPAN-1-AMINE | FC1=CC(=CC=2OC(OCC21)CN(CCC)CCC)S(=O)(=O)C | C16H24FNO4S
